US04812469
2-(5-Chloro-2,3-dihydro-2-oxo-3-phenyl-7-benzofuranyl)acetamide
This compound was prepared according to the process described in Example 6, but using 5-chloro-2,3-dihydro-2-benzofuranone and ammonia solution in Stage A.

reactant | 5-chloro-2,3-dihydro-2-benzofuranone | ClC=1C=CC2=C(CC(O2)=O)C1 | C8H5ClO2
reactant | ammonia | N | H3N
product | 2-(5-Chloro-2,3-dihydro-2-oxo-3-phenyl-7-benzofuranyl)acetamide | ClC=1C=C(C2=C(C(C(O2)=O)C2=CC=CC=C2)C1)CC(=O)N | C16H12ClNO3
